US04636382
2-octyl-4-(5-hydroxypentyl)-morpholine
20.0 grams (0.1 mole) 2-octylmorpholine, 13 grams (0.1 mole) of 5-chloropentanol and 12 grams of triethylamine in 150 ml. toluene were kept at 140°-150° C. for 12 hours in an autoclave. After cooling, the organic phase was washed twice with water, dried, and the solvent was evaporated and the base distilled at 128° C./0.01 mm Hg.; yield: 22.0 grams (77%).

reactant | 2-octylmorpholine | 0.1 mole, 20.0 grams | C(CCCCCCC)C1CNCCO1 | C12H25NO
reactant | 5-chloropentanol | 0.1 mole, 13 grams | ClCCCCCO | C5H11ClO
reactant | triethylamine | 12 grams | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-octyl-4-(5-hydroxypentyl)-morpholine | C(CCCCCCC)C1CN(CCO1)CCCCCO | C17H35NO2
